US08791142B2
Step 1) 4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)benzonitrile
A mixture of 4-fluoro-3-(trifluoromethyl)benzonitrile (50.0 g, 0.26 mol, Combi-Blocks AN-1049) and 2-methylpiperidine (156 mL, 1.32 mol) in DMSO (500 mL) was heated at 100° C. under nitrogen for 12 hours. The reaction mixture was diluted with Et2O and washed with water, a saturated aqueous solution of NaHCO3 and a saturated aqueous solution of NH4Cl. The organic layer was dried (MgSO4) and the solvent was removed under reduced pressure to give the title compound as a beige powder. UPLC/MS, M−(ESI): 269.2. 1H NMR (DMSO-d6, 300 MHz) δ 8.19 (d, J=2.0 Hz, 1H), 8.12 (dd, J=8.4, 2.0 Hz, 1H), 7.75 (d, J=8.2 Hz, 1H), 3.13 (m, 1H), 2.88 (m, 1H), 2.56 (m, 1H), 1.77-1.25 (m, 6H), 0.72 (d, J=6.0 Hz, 3H).

reactant | 4-fluoro-3-(trifluoromethyl)benzonitrile | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | 2-methylpiperidine | 1.32 mol, 156 mL | CC1NCCCC1 | C6H13N
solvent | DMSO | 500 mL | CS(=O)C | C2H6OS
solvent | Et2O | CCOCC | C4H10O
product | 4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)benzonitrile | CC1N(CCCC1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C14H15F3N2
